US06608203B2
2-Benzyl-7-methoxy-4-(4-methoxy-phenyl)-1,2,3,4-tetrahydroisoquinoline
To a solution of 2-[benzyl-(3-methoxy-benzyl)-amino]-1-(4-methoxy-phenyl)-ethanol (16.23 g, 43.0 mmol, see Preparation 63) in CH2Cl2 (280 ml) was added TFA (40.0 g, 27.0 ml, 350 mmol). The mixture was refluxed overnight. The reaction mixture was allowed to cool to RT and poured onto ice-water containing sat. NaHCO3 (250 ml). The mixture was extracted with CH2Cl2 (3×150 ml) and the combined organics were dried over MgSO4, filtered, and concentrated in vacuo. Flash chromatography (SiO2, gradient elution 10-40% EtOAc/Hexanes) of the residue afforded the title product (7.67 g, 21.3 mmol, 50% yield).

reactant | 2-[benzyl-(3-methoxy-benzyl)-amino]-1-(4-methoxy-phenyl)-ethanol | 43.0 mmol, 16.23 g | C(C1=CC=CC=C1)N(CC(O)C1=CC=C(C=C1)OC)CC1=CC(=CC=C1)OC | C24H27NO3
reactant | TFA | 350 mmol, 27.0 ml, 40.0 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 280 ml | C(Cl)Cl | CH2Cl2
product | 2-Benzyl-7-methoxy-4-(4-methoxy-phenyl)-1,2,3,4-tetrahydroisoquinoline | 21.3 mmol, 7.67 g, 50% yield | C(C1=CC=CC=C1)N1CC2=CC(=CC=C2C(C1)C1=CC=C(C=C1)OC)OC | C24H25NO2
